US07576099B2
Methyl 4-formyl-2-methoxybenzoate
A slow stream of CO was passed into a suspension of methyl 4-bromo-2-methoxybenzoate (2.4 g, 0.010 mol), bis(triphenylphosphine)palladium(II) chloride (140 mg, 0.00020 mol), sodium formate (1.02 g, 0.0150 mol), and dry DMF (10 mL). The mixture was vigorously stirred at 110° C. for 2 h. After cooling, the mixture was treated with aqueous Na2CO3 solution and extracted with EtOAc. The extract was washed with brine, dried (Na2SO4), and concentrated. The residue was purified by column chromatography on silica gel with AcOEt-hexane as eluent (0 to 50%) to give a colorless oil.

reactant | methyl 4-bromo-2-methoxybenzoate | 0.010 mol, 2.4 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | sodium formate | 0.0150 mol, 1.02 g | C(=O)[O-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.00020 mol, 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 4-formyl-2-methoxybenzoate | C(=O)C1=CC(=C(C(=O)OC)C=C1)OC | C10H10O4
